US06339096B1
10.1 g (0.1 mol) of 4-hydroxypiperidine and 11 g (0.11 mol) of triethylamine are placed in 200 ml ethyl acetate and 250 ml tetrahydrofuran and a solution of 23.3 g (0.11 mol) of 2,2,2-trichloroethyl chloroformate is added dropwise at 0-4° C. The mixture is stirred for 1 hour at 0° C. and for 1 hour at ambient temperature. The precipitate is suction filtered, the filtrate is combined at −12 to −14° C. with 12 g (0.105 mol) of methanesulphonic acid chloride and at −8 to −12° C. 12 g (0.12 mol) of triethylamine in 50 ml tetrahydrofuran are added dropwise. It is stirred for 40 minutes at −10° C., the cooling bath is removed and the mixture is stirred for 30 minutes. After washing with water and saturated saline solution it is dried with magnesium sulphate, concentrated by evaporation, the residue is triturated with diisopropylether and suction filtered. 32.4 g (91.5% of theory) of 4-methanesulphonyloxy-N-2,2,2-trichlorethoxycarbonylpiperidine are obtained as colourless crystals, melting point 93° C.

reactant | 4-hydroxypiperidine | 0.1 mol, 10.1 g | OC1CCNCC1 | C5H11NO
reactant | triethylamine | 0.11 mol, 11 g | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trichloroethyl chloroformate | 0.11 mol, 23.3 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | methanesulphonic acid chloride | 0.105 mol, 12 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.12 mol, 12 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-methanesulphonyloxy-N-2,2,2-trichlorethoxycarbonylpiperidine | 32.4 g, 91.5% | CS(=O)(=O)OC1CCN(CC1)C(=O)OCC(Cl)(Cl)Cl | C9H14Cl3NO5S
